US05187168
The preparation of 4'-[[[2-chlorothieno-[3,2-d]pyrimidin-4-yL]amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester
Sodium acetate (1.2 g), 2,4-dichlorothieno[3,2-d]pyrimidine(0.75 g) and 4'-aminomethyl(1,1'-biphenyl)-2-carboxylic acid methylester hydrochloride (1.02 g) were suspended in 40 mL of tetrahydrofuran. The reaction mixture was stirred at room temperature for 3 days at which time all the THF was removed by evaporation. The residue was partitioned between ethyl acetate and saturated aqueous sodium carbonate. The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified on silica gel chromatography (ETOAc/Hexane) to yield the product as a buff powder (0.81 g, 54%) (m.p.=177°-182° C.): 1H NMR (DMSO-d6, 400 MHz) δ8.98 (t, J=6.0 Hz, 1H), 8.19 (d, J=5.4 Hz, 1H), 7.71 (dd, J=1.1; 7.7 Hz, 1H), 7.60 (m, 1H), 7.46 (m, 1H), 7.38 (m, 4H), 7.25 (m, 2H), 4.73 (d, J=5.9 Hz, 2H), 3.58 (s, 3H); positive FAB MS m/e 410 (MH); 376 (M--Cl+H).

reactant | Sodium acetate | 1.2 g | C(C)(=O)[O-].[Na+]
reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | 0.75 g | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | 4'-aminomethyl(1,1'-biphenyl)-2-carboxylic acid methylester hydrochloride | 1.02 g | Cl.COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 4'-[[[2-chlorothieno-[3,2-d]pyrimidin-4-yL]amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester | 0.81 g, 54% | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CNC=1C2=C(N=C(N1)Cl)C=CS2 | C21H16ClN3O2S
